US08349851B2
To 2-((4-fluorophenyl)(hydroxy)methyl)-4-(5-methyl-1H-pyrazol-3-ylamino)quinazolin-7-ol (50 mg, 0.14 mmol) in 1:3 DMSO/DCM was added Dess-Martin periodinane (81 mg, 0.19 mmol) in one portion. After stirring for 1 h at rt, the solution was cooled to 0° C. and quenched by addition of a 1:1 mixture of 10% sodium thiosulfate pentahydrate and saturated sodium bicarbonate. The resulting dark precipitate was collected and chromatographed on silica eluting with 2 to 10% MeOH/DCM. Trituration of the colored solid with MeOH afforded (4-fluorophenyl)(7-hydroxy-4-(5-methyl-1H-pyrazol-3-ylamino)quinazolin-2-yl)methanone as a white solid (7 mg, 14%). 1H NMR (300 MHz, DMSO-d6) δ ppm 2.27 (s, 3H), 6.47 (bs, 1H), 7.06 (m, 2H), 7.13 (m, 1H), 7.38 (m, 2H), 8.06 (m, 2H), 8.57 (m, 2H), 10.41 (bs, 1H), 10.60 (bs, 1H), 12.15 (bs, 1H). LC-MS (ESI) m/z 364 (M+H)+.

reactant | 2-((4-fluorophenyl)(hydroxy)methyl)-4-(5-methyl-1H-pyrazol-3-ylamino)quinazolin-7-ol | 0.14 mmol, 50 mg | FC1=CC=C(C=C1)C(C1=NC2=CC(=CC=C2C(=N1)NC1=NNC(=C1)C)O)O | C19H16FN5O2
reactant | Dess-Martin periodinane | 0.19 mmol, 81 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DMSO DCM | CS(=O)C.C(Cl)Cl
product | (4-fluorophenyl)(7-hydroxy-4-(5-methyl-1H-pyrazol-3-ylamino)quinazolin-2-yl)methanone | 7 mg, 14% | FC1=CC=C(C=C1)C(=O)C1=NC2=CC(=CC=C2C(=N1)NC1=NNC(=C1)C)O | C19H14FN5O2
